*CMOS Inverter*

.OPTION LIST NODE POST
.include './32nmcmos.lib'
.vec './input2.vec'


vdd vdd gnd dc 1v

V1 Vin gnd dc 1v

*Mp1 Vout Vin vdd vdd pmos w=32nm l=32nm
*Mn1 Vout Vin gnd gnd nmos w=16nm l=32nm

R1 vdd N1 2k
R2 N1 AA 250
R3 N1 BB 2k

XOR1 A0 A1 AA gnd XOR
XOR2 B0 B1 BB gnd XOR

XOR3 A2 A3 AA gnd XOR
XOR4 B2 B3 BB gnd XOR

XOR5 A4 A5 AA gnd XOR
XOR6 B4 B5 BB gnd XOR

XOR7 A6 A7 AA gnd XOR
XOR8 B6 B7 BB gnd XOR

XOR10 A8 A9 AA gnd XOR
XOR11 B8 B9 BB gnd XOR

XOR12 A10 A11 AA gnd XOR
XOR13 B10 B11 BB gnd XOR

XOR14 A12 A13 AA gnd XOR
XOR15 B12 B13 BB gnd XOR

XOR16 A14 A15 AA gnd XOR
XOR17 B14 B15 BB gnd XOR





.op
.options nomod post=2 autostop
.tran 10p 0.8n strobeperiod=10p
.PRINT TRAN V(AA) V(BB)
.end




.subckt XOR A B Vinx Ginx

Mpx1 N1 A Vinx Vinx pmos w=286nm l=32nm
Mnx1 N1 A  Ginx Ginx nmos w=196nm l=32nm

Mpx2 N2 B N1 Vinx pmos w=286nm l=32nm
Mnx2 N2 B  N3 Ginx nmos w=196nm l=32nm

Mpx3 N3 N1 Vinx Vinx pmos w=286nm l=32nm
Mnx3 N3 N1  Ginx Ginx nmos w=196nm l=32nm

Mpx4 N4 B Vinx Vinx pmos w=286nm l=32nm
Mnx4 N4 B  Ginx Ginx nmos w=196nm l=32nm

Mpx5 N3 N4 N2 Vinx pmos w=286nm l=32nm
Mnx5 N1 N4  N2 Ginx nmos w=196nm l=32nm

Mpx6 N5 N2 Vinx Vinx pmos w=286nm l=32nm
Mnx6 N5 N2  Ginx Ginx nmos w=196nm l=32nm

.ends
